US07935707B2
F) 2-(3-Hexyl-phenyl)-5-iodo-3-methyl-3H-imidazole-4-carboxylic acid
A solution of 7.27 g (14.7 mmol) of 2-(3-hexyl-phenyl)-4,5-diiodo-1-methyl-1H-imidazole in 150 ml of THF was cooled down to −75° C.; then, 11.95 ml (19.1 mmol) of an n-butyl lithium solution (1.6 molar in n-hexane) was added drop by drop below −70° C. 30 min later, the reaction mixture was treated with an excess of solid carbon dioxide and subsequently warmed up to RT. It was then poured into crashed ice and extracted twice with EtOAc; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash column chromatography (CH2Cl2/MeOH 1:0 to 4:1) to give 2.97 g (49%) of the title compound as light red oil. MS: 411.2 ([M-H]−).

reactant | 2-(3-hexyl-phenyl)-4,5-diiodo-1-methyl-1H-imidazole | 14.7 mmol, 7.27 g | C(CCCCC)C=1C=C(C=CC1)C=1N(C(=C(N1)I)I)C | C16H20I2N2
reactant | n-butyl lithium | 19.1 mmol, 1.6 molar, 11.95 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-(3-Hexyl-phenyl)-5-iodo-3-methyl-3H-imidazole-4-carboxylic acid | 2.97 g, 49% | C(CCCCC)C=1C=C(C=CC1)C1=NC(=C(N1C)C(=O)O)I | C17H21IN2O2
